US08609647B2
(8) Optically-Active Compound of 3-amino-3-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester
To a solution of an optically-active compound of 3-benzyloxycarbonylamino-3-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester (27.2 g) in methanol (544 ml) was added 10% palladium carbon (2.7 g), and the mixture was hydrogenated under ordinary pressure for 5 hours. The mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure to give the titled compound (17.2 g).

reactant | 3-benzyloxycarbonylamino-3-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 27.2 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(CCO)NC(=O)OCC1=CC=CC=C1 | C20H30N2O5
solvent | methanol | 544 ml | CO | CH4O
catalyst | palladium carbon | 2.7 g | [C].[Pd]
product | 3-amino-3-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 17.2 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(CCO)N | C12H24N2O3
